US04507315
2-Amino-N-(3-imidazol-1-ylpropyl)benzamide (32.9 g) was dissolved in pyradine (165 ml) and 4-chlorobenzenesulphonyl chloride (41.2 g) was added in portions. The temperature of the reaction mixture rose to 52° C. The solution was stirred at room temperature for 4 hours and poured into water (1.5 l) to precipitate an oil which slowly solidified on standing. The solid was collected, washed with water and recrystallised from ethanol to give 2-(4-chlorobenzenesulphonamido)-N-(3-imidazol-1-ylpropyl)-benzamide (24.4 g), in the form of a white solid, m.p. 175°-177° C.

reactant | 2-Amino-N-(3-imidazol-1-ylpropyl)benzamide | 32.9 g | NC1=C(C(=O)NCCCN2C=NC=C2)C=CC=C1 | C13H16N4O
reactant | water | 1.5 l | O | H2O
reactant | 4-chlorobenzenesulphonyl chloride | 41.2 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 2-(4-chlorobenzenesulphonamido)-N-(3-imidazol-1-ylpropyl)-benzamide | 24.4 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=O)NCCCN2C=NC=C2)C=CC=C1 | C19H19ClN4O3S
